US05387710
To a mixture of 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one (3.6 g), benzylamine (2.5 ml), and acetic acid (27 ml) in water bath was added portionwise sodium cyanoborohydride (0.49 g), and the mixture was stirred at ambient temperature for 5 hours. Additional benzylamine (2.5 ml) and sodium cyanoborohydride (0.10 g) were added to the mixture, and stirring was continued for an additional 2 hours. The reaction mixture was made alkaline (pH>8) with 10% sodium hydroxide (150 ml), and extracted once with ethyl acetate. The extract was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (gradient elution; n-hexane-ethyl acetate; 3:1 to 2:1 to 1:1) to give N-benzyl-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (4.8 g) as an oil.

reactant | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one | 3.6 g | COC1=CC2=C(CCCC(C2)=O)C=C1 | C12H14O2
reactant | benzylamine | 2.5 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 0.49 g | C(#N)[BH3-].[Na+]
reactant | benzylamine | 2.5 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | water | O | H2O
catalyst | sodium cyanoborohydride | 0.10 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | N-benzyl-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine | 4.8 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OC | C19H23NO
